US05442070
50 g of 3-ethoxycarbonyl-6,7-difluorocarbostyril are added in the course of 10 minutes with stirring at 20° C. to 200 cm3 of phosphoryl chloride. The suspension is heated to a temperature in the region of 70° C. and maintained at this temperature for 3 hours After cooling to approximately 10° C., the solution obtained is poured with stirring into a mixture of 1,000 cm3 of water and 1,000 g of crushed ice. The temperature is allowed to rise to approximately 20° C. and the mixture is extracted with twice 500 cm3 of dichloromethane. The combined organic extracts are washed with 1,000 cm3 of water, and 1,000 cm3 of water to which sodium bicarbonate has been added to pH 7, dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure (20 kPa) at approximately 40° C. 45.6 g of 2-chloro-3-ethoxycarbonyl-6,7-difluoroquinoline are obtained in the form of a beige solid, melting point 108° C., which is used without further purification for the subsequent steps. 2-Chloro-3-ethoxycarbonyl-6,7-difluoroquinoline is converted to 2-chloro-6,7-difluoro-3-quinolinecarboxylic acid according to the customary methods, and can thus lead to the benzo[b][1,8]naphthyridine derivatives described in U.S. Pat. No. 4,970,213.

reactant | 3-ethoxycarbonyl-6,7-difluorocarbostyril | 50 g | C(C)OC(=O)C=1C(NC2=CC(=C(C=C2C1)F)F)=O | C12H9F2NO3
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 1,000 cm3 | O | H2O
product | 2-chloro-3-ethoxycarbonyl-6,7-difluoroquinoline | 45.6 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)OCC)F)F | C12H8ClF2NO2
